US07566784B2
B) Methyl 2-oxo-1-phenyl-1,2-dihydropyridine-3-carboxylate
To a solution of (E)-dimethyl 2-(3-(phenylamino)allylidene)malonate (130 mg, 0.50 mrnol) in methanol (8 mL) at rt was added NaH (50 mg of the 60% NaH in oil, 1.2 mmol) and the mixture was stirred at rt for 3 h. Acetic acid (0.3 mL) was added to the mixture, concentrated to a volume of 4 mL, and purificationof the reaction mixture by preparative HPLC provided the desired product (105 mg, 92%) as a yellow solid. 1H NMR (CD3OD) δ 8.30 (dd, 1H, J=7.2, 2.2 Hz), 7.87 (dd, 1H, J=6.6, 1.7 ), 7.57-7.38 (m, 5H), 6.53 (t, 1H, J=7.0 Hz), 3.84 (s, 3H); MS(ESI+) m/z 230.3 (M+H)+.

reactant | (E)-dimethyl 2-(3-(phenylamino)allylidene)malonate | 130 mg | C1(=CC=CC=C1)N/C=C/C=C(C(=O)OC)C(=O)OC | C14H15NO4
reactant | NaH | [H-].[Na+]
reactant | Acetic acid | 0.3 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 8 mL | CO | CH4O
product | Methyl 2-oxo-1-phenyl-1,2-dihydropyridine-3-carboxylate | 105 mg, 92% | O=C1N(C=CC=C1C(=O)OC)C1=CC=CC=C1 | C13H11NO3
